US07470713B2
2-(4-Iodo-2-methoxypyridin-3-yl)-4-methyl-1H-imidazole-5-carboxylic acid:
A stirred solution of tert-butyl 2-(4-iodo-2-methoxypyridin-3-yl)-4-methyl-1H-imidazole-5-carboxylate (0.047 g, 0.1131 mmol) in dichloromethane (0.8 mL) was added trifluoroacetic acid (0.6 mL) and the reaction was stirred at room temperature overnight. The solvent was evaporated after adding toluene (1 mL) and the residue was purified on Prep HPLC (trifluoroacetic acid/acetonitrile/water) to give the title material (0.039 g, 96%). 1H NMR (400 MHz, MeOH-d4) δ (ppm): 2.70 (s, 3H) 3.97 (s, 3H) 7.70 (d, J=5.56 Hz, 1H) 8.11 (d, J=5.56 Hz, 1H).

reactant | tert-butyl 2-(4-iodo-2-methoxypyridin-3-yl)-4-methyl-1H-imidazole-5-carboxylate | 0.1131 mmol, 0.047 g | IC1=C(C(=NC=C1)OC)C=1NC(=C(N1)C)C(=O)OC(C)(C)C | C15H18IN3O3
reactant | trifluoroacetic acid | 0.6 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.8 mL | ClCCl | CH2Cl2
product | 2-(4-Iodo-2-methoxypyridin-3-yl)-4-methyl-1H-imidazole-5-carboxylic acid | 0.039 g, 96% | IC1=C(C(=NC=C1)OC)C=1NC(=C(N1)C)C(=O)O | C11H10IN3O3
